US05155130
The starting material is prepared as follows: A solution of 6-hydroxy-2H-1-benzopyran-3-carboxaldehyde (5.0 g, 28.4 mmol) in 100 ml of DMF is treated with potassium carbonate (7.85 g, 56.8 mmol) and 1-bromo-3-phenylpropane (6.22 g, 31.2 mmol). The reaction mixture is stirred for 2 days at room temperature. This is partitioned between water and dichloromethane and the aqueous layer is extracted twice with dichloromethane. The combined organic layer is dried (MgSO4), and evaporated. The residue is chromatographed (silica gel, 20% ethyl acetate/hexane) to afford 6-(3-phenylpropyloxy)-2H-1-benzopyran-3-carboxaldehyde, m.p. 71°-73° C., as an oil which crystallizes on standing. The aldehyde is converted to 3-(N-hydroxyaminomethyl)-6-(3-phenylpropyloxy)-2H-1-benzopyran as described above.

reactant | 6-hydroxy-2H-1-benzopyran-3-carboxaldehyde | 28.4 mmol, 5.0 g | OC=1C=CC2=C(C=C(CO2)C=O)C1 | C10H8O3
reactant | potassium carbonate | 56.8 mmol, 7.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-phenylpropane | 31.2 mmol, 6.22 g | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 6-(3-phenylpropyloxy)-2H-1-benzopyran-3-carboxaldehyde | C1(=CC=CC=C1)CCCOC=1C=CC2=C(C=C(CO2)C=O)C1 | C19H18O3
